US04263393
A. m-(Hexadecanesulfonamido)acetophenone)
To a mechanically stirred solution of 31.2 g (0.23 M) of m-aminoacetophenone and 35.4 ml (0.254 M) of triethylamine in 1 liter of tetrahydrofuran was added 75 g (0.23 M) of 1-hexadecanesulfonyl chloride at room temperature. The mixture was stirred for 2 hours and the suspended salt was removed. The filtrate was treated on a rotary evaporator to give a solid which was recrystallized from hexane: mp 95.5°-100° C.

reactant | m-aminoacetophenone | 0.23 M, 31.2 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | triethylamine | 0.254 M, 35.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hexadecanesulfonyl chloride | 0.23 M, 75 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | m-(Hexadecanesulfonamido)acetophenone | C(CCCCCCCCCCCCCCC)S(=O)(=O)NC=1C=C(C=CC1)C(C)=O | C24H41NO3S
